US06869956B2
3-(1-Methyl-imidazol-5-yl)-2-naphthoic Acid
A solution of methyl-3-(1-methyl-imidazol-5-yl)-2-naphthoate (Preparation 14) (8.5 g, 32 mmol) in THF/MeOH (3/2,120 mL) was treated with aqueous NaOH (1.0 N, 48 mL). After 20 hours at RT, it was neutralized with aqueous HCl (1.0 N, 20 mL). The solvent was evaporated in vacuo. The solid residue was treated with MeOH (5 mL), then evaporated again. The resulting crude material was purified by flash chromatography (5% MeOH/EtOAc) affording the title compound as a pale-yellow solid (6.0 g, 74%). 1H NMR (CDCl3): 8.34 (s, 1H), 7.95 (d, J=8.1, 1H), 7.90 (d, J=8.1, 1H), 7.72 (s, 1H), 7.53 (s, 1H), 7.52 (m, 1H), 7.50 (m, 1H), 6.83 (s, 1H), 3.16 (s, 3H). (ESI) m/z (M+H)+=253.10.

reactant | methyl-3-(1-methyl-imidazol-5-yl)-2-naphthoate | 32 mmol, 8.5 g | COC(=O)C1=CC2=CC=CC=C2C=C1C1=CN=CN1C | C16H14N2O2
reactant | NaOH | 1.0 N, 48 mL | [OH-].[Na+]
reactant | HCl | 1.0 N, 20 mL | Cl | ClH
solvent | THF MeOH | 2,120 mL | C1CCOC1.CO
product | 3-(1-Methyl-imidazol-5-yl)-2-naphthoic Acid | 6.0 g, 74% | CN1C=NC=C1C=1C(=CC2=CC=CC=C2C1)C(=O)O | C15H12N2O2
